US04532349
4'-(p-chlorophenylsulfonyl)acetanilide
A mixture of 70.1 g of N-acetylsulfanilyl chloride and 60 g of aluminum chloride in 200 ml of p-chlorobenzene was heated until the evolution of hydrogen chloride ceased and then refluxed for 2 hours. The chlorobenzene was removed by decantation and the residue diluted with ether. The resulting gummy solid was recovered by filtration and treated with dilute hydrochloric acid and ethanol. The resulting solid was collected, dissolved in hot ethanol and concentrated, giving 19.31 g of the desired product as pale gray crystals, mp 187.5°-188.5° C.

reactant | N-acetylsulfanilyl chloride | 70.1 g | C(C)(=O)NC1=CC=C(S(=O)(=O)Cl)C=C1 | C8H8ClNO3S
reactant | aluminum chloride | 60 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrogen chloride | Cl | ClH
solvent | p-chlorobenzene | 200 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 4'-(p-chlorophenylsulfonyl)acetanilide | 19.31 g | ClC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(NC(C)=O)C=C1 | C14H12ClNO3S
